US04394515
Dibenzo[b,f]thiepin-3-carboxylic Acid 5-Oxide
925 Mg. 3-cyanodibenzo[b,f]thiepin 5-oxide are refluxed for 31/2 hours in a mixture of 60 cc. 10% aqueous sodium hydroxide solution and 60 cc. denatured alcohol. The mixture is diluted with 1/2 liter of water and acidified with concentrated HCl. The acid precipitates and is filtered and dried. The yield of white dibenzo[b,f]thiepin-3-carboxylic acid 5-oxide is 965 mg. (97%), m.p. dec. 249° C.

reactant | 3-cyanodibenzo[b,f]thiepin 5-oxide | C(#N)C=1C=CC2=C(S(C3=C(C=C2)C=CC=C3)=O)C1 | C15H9NOS
reactant | sodium hydroxide | [OH-].[Na+]
reactant | HCl | Cl | ClH
reactant | water | 1/2 liter | O | H2O
product | Dibenzo[b,f]thiepin-3-carboxylic Acid 5-Oxide | C1=CC(=CC=2S(C3=C(C=CC21)C=CC=C3)=O)C(=O)O | C15H10O3S
